US05025025
A solution of 0.094 g (0.29 mmol) ethyl 8-hydroxy-4-[3-(3-pyridyl)propyl]-3-thia-octanoate in 1.5 mL methylene chloride is cooled to 0° and then 0.1 mL of triethylamine is added followed by 0.027 mL methanesulfonyl chloride. The reaction is stirred at 0° C. for 1 hour and diluted with ether. The ether layer is washed with saturated sodium bicarbonate, water, brine, then dried, filtered and evaporated to yield ethyl 8-methanesulfonyloxy-4-[3-(3-pyridyl)propyl]-3-thia-octanoate; NMR (CDCl3): delta 3.2 (s,2H), 3.1 (s,3H).

reactant | ethyl 8-hydroxy-4-[3-(3-pyridyl)propyl]-3-thia-octanoate | 0.29 mmol, 0.094 g | OCCCCC(SCC(=O)OCC)CCCC=1C=NC=CC1 | C17H27NO3S
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.027 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | ethyl 8-methanesulfonyloxy-4-[3-(3-pyridyl)propyl]-3-thia-octanoate | CS(=O)(=O)OCCCCC(SCC(=O)OCC)CCCC=1C=NC=CC1 | C18H29NO5S2
